US06218427B1
(Step 1) Diethyl 2-(4-methoxy-phenylsulfanylmethylene)-malonate (XI-1)
4-Methoxybenzenethiol (X-1; 5 g, 0.0357 mol), diethyl ethoxymethylene malonate (7.3 ml) and sodium hydrogen sulfate monohydrate (100 mg) were heated with stirring in an oil bath at 166° C. for 2 h. After cooling, ice water was added to the reaction mixture and extracted with ether. The crude product was purified by silica gel (250 g) and ethyl acetate/hexane (1:4) to give compound (XI-1) (5.7 g, 51%) as an oil. NMR(CDCl3):1.29(3H,t, J=7.1), 1.38(3H, t, J=7.1), 3.83(3H, s), 4.23(2H, q, J=7.1), 4.35(2H, q, J=7.1), 6.93, 7.45(4H, AB, J=8.8), 8.30(1H,s)

reactant | 4-Methoxybenzenethiol | 0.0357 mol, 5 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | diethyl ethoxymethylene malonate | 7.3 ml | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | sodium hydrogen sulfate monohydrate | 100 mg | O.S(=O)(=O)(O)[O-].[Na+]
product | Diethyl 2-(4-methoxy-phenylsulfanylmethylene)-malonate | COC1=CC=C(C=C1)SC=C(C(=O)OCC)C(=O)OCC | C15H18O5S
